US06046215
5-formyl 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
A solution of 10.0 gm (34.3 mMol) 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole in 150 mL tetrahydrofuran was added dropwise to a stirring suspension of 7.2 gm (36 mMol) potassium hydride in 150 mL tetrahydrofuran at 0° C. After 30 minutes, the reaction mixture is cooled to -78° C. and to it was added 44.5 mL (75.6 mMol) of a precooled (-78° C.) solution of tert-butyllithium (1.7 M in tetrahydrofuran) via cannula. After 15 minutes 4.0 mL (51.5 mL) dimethylformamide was added via cannula and the reaction mixture was allowed to warm slowly to room temperature. The reaction mixture was quenched by the addition of 5N sodium hydroxide and the reaction mixture extracted well with diethyl ether. The organic extracts were combined, washed with saturated aqueous sodium chloride and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography, eluting with 4% methanol in dichloromethane. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 3.8 gm (46%) of the title compound as a light yellow solid.

reactant | 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 34.3 mMol, 10.0 gm | BrC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H15BrN2
reactant | potassium hydride | 36 mMol, 7.2 gm | [H-].[K+]
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-formyl 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.8 gm, 46% | BrC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C.C(=O)C=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | InChI=1S/C15H16N2O.C14H15BrN2/c1-17-6-4-12(5-7-17)14-9-16-15-3-2-11(10-18)8-13(14)15;1-17-6-4-10(5-7-17)13-9-16-14-3-2-11(15)8-12(13)14/h2-4,8-10,16H,5-7H2,1H3;2-4,8-9,16H,5-7H2,1H3
